US09034866B2
Synthesis of 9-((3-hydroxy-5-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide was reacted with a ˜1:1 diastereomeric mixture of 3-ethynyl-3-hydroxy-5-methylpyrrolidin-2-one to give a mixture of titled compounds after purification by HPLC.

reactant | 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | IC1=CC2=C(OCCC=3N2N=C(C3)C(=O)N)C=C1 | C12H10IN3O2
reactant | 3-ethynyl-3-hydroxy-5-methylpyrrolidin-2-one | C(#C)C1(C(NC(C1)C)=O)O | C7H9NO2
product | 9-((3-hydroxy-5-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | OC1(C(NC(C1)C)=O)C#CC1=CC2=C(OCCC=3N2N=C(C3)C(=O)N)C=C1 | C19H18N4O4
